US06291511B1
Step B: 2-Amino-3-bromophenol.
To an ice cooled solution of 6-bromo-2-anisidine (1.01 g, 5 mmol) in methylene chloride (30 mL) was slowly added a 1.0 M solution of boron tribromide in methylene chloride (10 mL, 10 mmol) via syringe. The reaction was slowly warmed to room temperature and stirred overnight. Methanol (10 mL) was added and the solvents removed by rotoevaporation to give the title compound (0.87 g, 92% yield).

reactant | 6-bromo-2-anisidine | 5 mmol, 1.01 g | BrC=1C=CC=C(C1OC)N | C7H8BrNO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 10 mL | CO | CH4O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mmol, 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-bromophenol | 0.87 g, 92% yield | NC1=C(C=CC=C1Br)O | C6H6BrNO
